US04469868
7,8-Dihydro-1,3,5,7,7-pentamethyl-1H-imidazo[1,2-c]pyrazolo[3,4-e]pyrimidine
The requisite 2-(4-amino-1,3-dimethyl-5-pyrazolyl)-3,3-dimethylimidazoline is prepared as follows. p-Toluenesulfonic acid (10 g, 0.055 mol) is added to 5 g (0.057 mol) of 1,2-diamino-2-methylpropane and to the resulting hot (100°) melt is added 7 g (0.05 mol) of 4-amino-5-cyano-1,3-dimethylpyrazole. The mixture is heated in an oil bath at 185°-195° C. for six hours. The residue, an amorphous yellow solid is dissolved in 250 ml of chloroform and stirred with 40 ml of conc. ammonium hydroxide. The organic layer is separated, dried (MgSO4), and evaporated in vacuo to give 9 g (90%) of slightly crude title compound as a viscous purple oil.

reactant | p-Toluenesulfonic acid | 0.055 mol, 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-diamino-2-methylpropane | 0.057 mol, 5 g | NCC(C)(C)N | C4H12N2
reactant | 4-amino-5-cyano-1,3-dimethylpyrazole | 0.05 mol, 7 g | NC=1C(=NN(C1C#N)C)C | C6H8N4
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 7,8-Dihydro-1,3,5,7,7-pentamethyl-1H-imidazo[1,2-c]pyrazolo[3,4-e]pyrimidine | CN1N=C(C2=C1C=1N(C(=N2)C)C(CN1)(C)C)C | C12H17N5
